US08138189B2
Step 1: 4-(4-Acetyl-3-chloro-phenoxy)-benzonitrile
To a solution 4-cyanophenol (CAS Reg. No. 767-00-0, 1.2 g), 2-chloro-4-fluoroacetophenone (CAS Reg. No. 700-35-6, 1.7 g) in DMA (10 ml) was added K2CO3 (1.66 g). The mixture is refluxed for 5 h. TLC (heptane/EtOAc 2:1) showed complete conversion. Water was added and the mixture was extracted with DCM. The combined organic layers were dried over Na2SO4 and then concentrated to an oil. The residue was purified by flash chromatography (SiO2, EtOAc/heptane 1:2) to give the title compound (1.8 g) as yellow oil. MS (m/e)=272.2 [M+H+].

reactant | 4-cyanophenol | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | 2-chloro-4-fluoroacetophenone | CC(=O)C1=C(C=C(C=C1)F)Cl | C8H6ClFO
reactant | K2CO3 | 1.66 g | C(=O)([O-])[O-].[K+].[K+]
reactant | heptane EtOAc | CCCCCCC.CCOC(=O)C
solvent | DMA | 10 ml | CC(=O)N(C)C | C4H9NO
solvent | Water | O | H2O
product | 4-(4-Acetyl-3-chloro-phenoxy)-benzonitrile | 1.8 g | C(C)(=O)C1=C(C=C(OC2=CC=C(C#N)C=C2)C=C1)Cl | C15H10ClNO2
